US08497370B2
Sildenafil citrate (9.5 g) is dissolved in a mixture of ethanol (10 mL) and HCl (1N, 60 mL), then reacted at 50° C. for 10 mins. Under room temperature, the methanol is added for incubating over night and crystallization. Then, the crystal is filtrated to obtain precipitate of Sildenafil HCl (6.4 g) for use.

reactant | Sildenafil citrate | 9.5 g | CCCC=1C2=C(N(N1)C)C(=O)NC(=N2)C=3C=C(C=CC3OCC)S(=O)(=O)N4CCN(CC4)C.C(C(=O)O)C(CC(=O)O)(C(=O)O)O
reactant | methanol | CO | CH4O
reactant | HCl | 1N, 60 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Sildenafil HCl | 6.4 g | CCCC1=NN(C2=C1NC(=NC2=O)C3=C(C=CC(=C3)S(=O)(=O)N4CCN(CC4)C)OCC)C.Cl | InChI=1S/C22H30N6O4S.ClH/c1-5-7-17-19-20(27(4)25-17)22(29)24-21(23-19)16-14-15(8-9-18(16)32-6-2)33(30,31)28-12-10-26(3)11-13-28;/h8-9,14H,5-7,10-13H2,1-4H3,(H,23,24,29);1H
